US08859591B2
Step B: 1-(4-(benzyloxy)-3-methylphenyl)-4-(trifluoromethyl)-1H-pyrazole
A mixture of 1-(benzyloxy)-4-iodo-2-methylbenzene (850 mg, 2.6 mmol), 4-(trifluoromethyl)-1H-pyrazole (535 mg, 3.9 mmol), copper iodide (100 mg, 0.52 mmol), dimethylglycine (54 mg, 0.52 mmol), potassium carbonate (906 mg, 6.6 mmol), and DMSO (10 ml) was stirred at +1200 for 20 hours. The reaction was cooled to the ambient temperature, diluted with 10 ml of 5% aqueous ammonia and 10 ml of ethyl acetate and vigorously stirred for 20 min. The mixture was extracted with ethyl acetate (2×20 ml). The combined organic extract was washed with brine, dried over anhydrous magnesium sulfate, and loaded on silica gel. Chromatography on a silica gel column, eluting with a gradient from 5% to 30% of ethyl acetate in heptane gave the target product as an oil, which crystallized upon standing to a colorless solid (670 mg, 77%). MS (M+1): 333.1.

reactant | 1-(benzyloxy)-4-iodo-2-methylbenzene | 2.6 mmol, 850 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)I)C | C14H13IO
reactant | 4-(trifluoromethyl)-1H-pyrazole | 3.9 mmol, 535 mg | FC(C=1C=NNC1)(F)F | C4H3F3N2
reactant | dimethylglycine | 0.52 mmol, 54 mg | CN(CC(=O)O)C | C4H9NO2
reactant | potassium carbonate | 6.6 mmol, 906 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ammonia | 10 ml | N | H3N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 0.52 mmol, 100 mg | [Cu](I)I
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 1-(4-(benzyloxy)-3-methylphenyl)-4-(trifluoromethyl)-1H-pyrazole | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1N=CC(=C1)C(F)(F)F)C | C18H15F3N2O
